US04229449
40 g of ethyl-2-hydroxy-3-phenyl-3-(2-nitro-phenoxy)-propionate in 1 liter of 95° ethyl alcohol and 250 ml of 35% methylamine was heated in a stopped vessel at 40°-50° C. for 24 hours. The whole was evaporated to dryness under vacuum, taken up with 200 ml of absolute ethyl alcohol, again evaporated to dryness and the residue crystallized from isopropanol. There was in this way obtained 36 g (94.2%) of N-methyl-2-hydroxy-3-phenyl-3-(2-nitro-phenoxy)-propionamide, melting point 162°-163° C.

reactant | ethyl-2-hydroxy-3-phenyl-3-(2-nitro-phenoxy)-propionate | 40 g | C(C)OC(C(C(OC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)O)=O | C17H17NO6
reactant | methylamine | 250 ml | CN | CH5N
solvent | ethyl alcohol | C(C)O | C2H6O
product | N-methyl-2-hydroxy-3-phenyl-3-(2-nitro-phenoxy)-propionamide | 36 g, 94.2% | CNC(C(C(OC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)O)=O | C16H16N2O5
